datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:29][O:30][H:31],58.19944
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12]#[C:11][H:16])([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:5],43.8483
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[S:3][H:9])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[S:3]([H:9])[C:10]([H:11])([H:12])[H:13],87.1946
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7]([C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16])[H:15]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8]([S:7][H:15])([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16],12.9704
[C:0]([C:1](=[O:2])[C:3]([O:4][O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1](=[O:2])[C:3]([O:4])([H:9])[H:10])([H:6])([H:7])[H:8].[O:5][H:11],179.912
[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])([O:6][O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])([O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],178.2384
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]([C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])([H:29])[H:30])[H:28]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:29])([H:9])([H:10])[H:11].[S:20]([C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])[H:28],18.828
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([S:10][H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:14])([H:3])[H:4].[C:8]([C:9]([S:10][H:16])[H:15])([H:11])([H:12])[H:13],-1.6736
[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]1[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])([H:8])[H:11],105.0184
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],35.31296
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][O:32],7.397312
[C:0](=[C:1]1[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8].[H:10],171.9624
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:9],56.2748
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([S:15][H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:22])([H:23])[H:24])([S:15][H:25])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30],-2.5104
[N:0][H:1].[N:2][H:3]>>[H:1][N:2][H:3].[N:0],1.430928
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]=[C:7]([S:8][H:10])[H:9]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:10])[H:3].[S:6]=[C:7]([S:8])[H:9],11.2968
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[O:10][O:11]>>[C:0](=[C:1][C:2]([O:3][H:9])([H:7])[H:8])([H:4])[H:5].[H:6][O:10][O:11],253.92696
